US07700634B2
1-(cyclohexyl)methyl-7-methoxy-3-{2-[(tertbutylcarbonyloxy)methyl]thiazol-4-yl}-1H-indole (0.92 g, 2.10 mmol) was dissolved in methanol (20 ml) and 4N sodium hydroxide (5 ml) added. The solution was stirred at room temperature for 2 h. The reaction mixture was concentrated in vacuo and the residue taken up in dichloromethane. Water (10 ml) was added and the organic layer separated. The aqueous layer was extracted with dichloromethane and the combined organic layers concentrated in vacuo to yield 1-(cyclohexyl)methyl-3-[2-(hydroxymethyl)thiazol-4-yl]-7-methoxy-1H-indole as a pale orange foam (0.55 g).

reactant | 1-(cyclohexyl)methyl-7-methoxy-3-{2-[(tertbutylcarbonyloxy)methyl]thiazol-4-yl}-1H-indole | 2.10 mmol, 0.92 g | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1N=C(SC1)COC(=O)C(C)(C)C | C25H32N2O3S
reactant | sodium hydroxide | 4N, 5 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1-(cyclohexyl)methyl-3-[2-(hydroxymethyl)thiazol-4-yl]-7-methoxy-1H-indole | 0.55 g | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1N=C(SC1)CO | C20H24N2O2S
